US05064751
To a solution of 22 g of p-aminophenol in 100 ml of acetonitrile was slowly added dropwise 26 ml of phenyl chloroformate under ice-cooling, and the mixture was stirred at room temperature for 2 hours. To the mixture was added 17 ml of pyridine at room temperature, followed by stirring for 1 hour. After completion of the reaction, the reaction solution was poured into 1 l of ice-water to precipitate white crystals. The crystals were collected by filtration, washed twice with 50 ml of water, and dried to obtain 6 g of phenyl 4-hydroxycarbanilide. Subsequently, the crystals were slowly added to a solution of 62 g of hydrazine hydrate (80%) in 50 ml of methanol under ice-cooling, followed by stirring at room temperature for 3 hours. The reaction solution was poured into 1 l of ice-water to precipitate white crystals. The thus formed crystals were collected by filtration, washed once with 20 ml of water and then twice with 50 ml of isopropyl alcohol, and dried to obtain 15 g of 4-(4-hydroxyphenyl)semicarbazide (melting point: 184-186° C.).

reactant | p-aminophenol | 22 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | phenyl chloroformate | 26 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyridine | 17 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrazine hydrate | 62 g | O.NN
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | methanol | 50 ml | CO | CH4O
product | 4-(4-hydroxyphenyl)semicarbazide | 15 g | OC1=CC=C(C=C1)NC(NN)=O | C7H9N3O2
